US08859534B2
Ethyl 7-bromo-5-fluoro-benzofuran-2-carboxylate
Ethyl iodide (4.6 ml, 57.2 mmol) was added to a mixture of 7-bromo-5-fluoro-benzofuran-2-carboxylic acid (3.7 g, 14.3 mmol) and sodium bicarbonate (4.8 g, 57.2 mmol) in anhydrous dimethylformamide (40 mL). The mixture was heated at 55° C. for 18 h, cooled to rt, quenched with water (20 mL) and extracted twice with ethyl acetate. The combined organic extracts were washed with brine, dried (Na2SO4), filtered and concentrated under reduced pressure. The crude compound was purified by flash chromatography (SiO2; hexane/DCM; 4/1) to give 3.7 g (90%) of the product.

reactant | Ethyl iodide | 57.2 mmol, 4.6 ml | C(C)I | C2H5I
reactant | 7-bromo-5-fluoro-benzofuran-2-carboxylic acid | 14.3 mmol, 3.7 g | BrC1=CC(=CC=2C=C(OC21)C(=O)O)F | C9H4BrFO3
reactant | sodium bicarbonate | 57.2 mmol, 4.8 g | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | Ethyl 7-bromo-5-fluoro-benzofuran-2-carboxylate | 3.7 g, 90% | BrC1=CC(=CC=2C=C(OC21)C(=O)OCC)F | C11H8BrFO3
